US06323235B1
(3-((benzylsulfonylamino)methyl)benzofuran-7-yloxy)acetic acid
To 1N hydrochloric acid (10 ml), methyl (3-acetylaminomethylbenzofuran-7-yloxy)acetate (145 mg) was added and the obtained mixture was heated to reflux for 5 hours. To the reaction mixture, 2N aqueous sodium hydroxide solution (5 ml) was added to neutralize the mixture, and potassium carbonate (1.46 g) and benzylsulfonyl chloride (1.48 g) were added to the mixture, followed by stirring the resultant at 80° C. for one day and night. To the resulting mixture, 1N hydrochloric acid was added to neutralize the mixture and the resultant was extracted with ethyl acetate (3×20 ml). The organic layers were washed with saturated brine and dried over sodium sulfate. After removing solids by filtration, the solvent was removed under reduced pressure and the obtained solids were purified by recrystallization (ethyl acetate/n-hexane) to obtain the desired compound (85 mg, yield: 43%).

reactant | methyl (3-acetylaminomethylbenzofuran-7-yloxy)acetate | 145 mg | C(C)(=O)NCC1=COC2=C1C=CC=C2OCC(=O)OC | C14H15NO5
reactant | sodium hydroxide | 2N, 5 ml | [OH-].[Na+]
reactant | potassium carbonate | 1.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylsulfonyl chloride | 1.48 g | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | hydrochloric acid | 1N | Cl | ClH
product | (3-((benzylsulfonylamino)methyl)benzofuran-7-yloxy)acetic acid | 85 mg, yield: 43% | C(C1=CC=CC=C1)S(=O)(=O)NCC1=COC2=C1C=CC=C2OCC(=O)O | C18H17NO6S
